US04351843
Methyl pyrrole-3-carboxylate (2.5 g., 20 mmole) was dissolved in 35 ml. of methylene chloride p-Chlorobenzenesulfenyl chloride (4.0 g., 22 mmoles) was added dropwise over approximately 2 minutes, and the reaction mixture was stirred at room temperature for 1 hour. Two volumes of ether were added, the mixture extracted twice with 20 ml. portions of water and the organic layer evaporated in vacuo. The resulting oil was chromatographed on 100 g. of silica gel with approximately 25 ml. fractions of the ethyl acetate-1/hexane-7 eluant collected. Fractions 19 to 36 were combined and concentrated to yield methyl 5-(4-chlorophenylthio)pyrrole-3-carboxylate (1.4 g., m.p. 122°-124° C.).

reactant | Methyl pyrrole-3-carboxylate | 20 mmole, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | methylene chloride p-Chlorobenzenesulfenyl chloride | 22 mmoles, 4.0 g | ClC1=CC=C(C=C1)SCl.C(Cl)Cl
solvent | ether | CCOCC | C4H10O
product | methyl 5-(4-chlorophenylthio)pyrrole-3-carboxylate | 1.4 g | ClC1=CC=C(C=C1)SC1=CC(=CN1)C(=O)OC | C12H10ClNO2S
